* Z:\mnt\spice-netlists\LTC3809-1.asc
C1 N006 N005 1500p
C2 N006 0 10p
R1 N005 0 10K
V1 IN 0 3.3
M§Q1 N002 N004 0 0 Si7540DP_N
R2 N007 0 59K
R3 OUT N007 118K
C3 OUT 0 47µ
L1 N002 OUT 1.5µ
M§Q2 N002 N001 IN IN Si7540DP_P
C4 IN 0 10µ
C5 IN 0 10µ
C6 OUT N007 22p
XU1 IN IN N007 N006 N003 IN N004 N001 IN N002 0 LTC3809-1
Rload OUT 0 .6
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3809-1 - 550KHz, Internal Soft Start, Synchronous Step-down DC/DC Converter, Output Tracking Optional\nInput: 3.3V     Output: 1.8V@3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3809-1.sub
.backanno
.end
