* Z:\mnt\spice-netlists\LTC3822-1.asc
C1 N008 0 1000p
C2 N007 0 10p
R1 N007 N008 5.1K
V1 IN 0 3.3
M§Q1 N004 N005 0 0 Si4866DY
R2 N006 0 59K
R3 OUT N006 118K
C3 OUT 0 47µ
L1 N004 OUT .47µ
C4 IN 0 47µ x2
C5 OUT N006 220p
M§Q2 IN N002 N004 N004 Si4866DY
C6 N001 N004 .22µ
D1 IN N001 CMDSH2-3
D2 0 N004 MBRS130L
XU1 0 NC_01 IN N003 IN N006 N007 NC_02 MP_03 IN N005 N002 N001 IN N004 N004 LTC3822-1
R4 IN N003 100K
Rload OUT 0 .18
C7 OUT 0 470µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3822-1 - No Rsense(TM), Low Input Voltage, Synchronous Step-down DC/DC Converter\nInput: 3.3V              Output: 1.8V @ 10A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTC3822-1.sub
.backanno
.end
