* Z:\mnt\spice-netlists\LTC3862-2.asc
M§Q1 N002 N006 N007 N007 BSC100N10NSF
L1 IN N002 15µ
D1 N002 OUT PDS5100
R1 N013 0 45.3K
R2 OUT N020 715K
R3 N020 0 11.8K
R4 IN N005 84.5K
R5 N005 0 34K
V1 IN 0 PWL(0 0 0.0001 14 0.0006 14 0.0007 5)
R6 N007 0 4m
C2 0 N001 4.7µ
C3 0 N023 .001µ
C4 0 N004 .001µ
L2 IN N009 15µ
R7 N014 0 4m
M§Q2 N009 N012 N014 N014 BSC100N10NSF
D2 N009 OUT PDS5100
Rload OUT 0 75
C5 N022 0 15n
R10 N021 N022 21K
C8 N021 0 120p
C9 N003 0 0.47µ
L3 IN N011 100µ
D3 N011 N003 PMEG6010AED
M§Q3 N011 N015 N016 N016 2N7002
R11 N016 0 50m
R12 N016 N019 3..01k
C10 N010 0 1µ
R13 N001 N010 402
R14 N003 N008 100K
R15 N008 0 8.66K
R16 N018 N017 10K
C11 N017 0 10n
C6 IN 0 6.8µ
C7 OUT 0 4.7µ
C1 OUT 0 22µ
XU1 0 NC_01 NC_02 0 N013 N023 N021 N020 0 NC_03 NC_04 0 N014 0 MP_05 N012 0 N006 N001 N003 N005 0 N007 N004 LTC3862-2
XU2 N018 0 N008 N019 N010 N015 LTC3803-5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3862-2 - Multi-Phase Current Mode Step-Up DC/DC Controller\nAutomotive High Output Voltage Boost Converter\n(The major advantage of LTC3862-2 is its ability to function at low voltages and drive standard level MOSFETs.)\nInput: 5V to 28V     Output: 75V @ 1A
* Notes: \n  A smaller SS capacitor, C3, is being used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc.  All rights reserved.
* OPTIONAL:  Low power LTC3803-5 booster provides 10V for biasing \nLTC3862 when input voltage drops during cold cranking.
.lib LTC3803-5.sub
.lib LTC3862-2.sub
.backanno
.end
