* Z:\mnt\spice-netlists\LTC3862-2_DC1891.asc
D1 0 N012 BZX84C8V2L
R1 IN N012 10K
Q1 IN N012 N001 0 2N5550
M§Q2 N002 N008 N009 N009 BSC060N10NS3
R2 N014 0 43.2K
R3 OUT N016 110K
R4 N016 0 12.4K
R5 IN N007 845K
R6 N007 0 249K
V1 IN N004 PULSE(0 14 0 1u 1u .5m 1m)
R7 N009 0 5m
C1 0 N005 4.7µ
C2 0 N019 .01µ
C3 0 N006 .001µ
R8 N015 0 5m
M§Q3 N010 N013 N015 N015 BSC060N10NS3
XU1 0 NC_01 NC_02 0 N014 N019 N017 N016 0 NC_03 NC_04 0 N015 0 MP_05 N013 0 N008 N005 N001 N007 0 N009 N006 LTC3862-2
L1 N002 IN 6.8µ
L2 N003 0 6.8µ
L3 N010 IN 6.8µ
L4 N011 0 6.8µ
D2 N003 OUT MBR20100CT
C4 N003 N002 10µ
C5 N011 N010 10µ
D3 N011 OUT MBR20100CT
C6 IN 0 4.7µ
C7 IN 0 100µ
C8 IN 0 4.7µ
C9 OUT 0 100µ
C10 OUT 0 47µ x2
C11 OUT 0 100µ
C12 OUT 0 47µ x2
R9 N018 N017 13.7K
C13 0 N018 15n
C14 0 N017 100p
D4 OUT N001 MBR0530L
C15 N001 0 4.7µ
Rload OUT 0 12
V2 N004 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
K1 L1 L2 1
K2 L3 L4 1
* OPTIONAL LDO
* Notes: \n  This circuit demonstrates LTC3862-2 ability to work over a wide input voltage range in automotive SEPIC application (DC1891). \n  In this simulation Vin drops to 6V and then rises to 20V; replicating cold cranking and load dump in automotive voltage bus.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc.  All rights reserved.
* LTC3862-2 - Multi-Phase Current Mode Step-Up DC/DC Controller\nLow Noise PolyPhase SEPIC DC/DC Converter\nInput: 6V to 28V     Output: 12V @ 1A
.lib LTC3862-2.sub
.backanno
.end
