* Z:\mnt\spice-netlists\LTC3890-1_DC1244.asc
V1 IN 0 48
M§Q1 IN N006 N011 N011 BSZ100N06LS3
M§Q2 N011 N014 0 0 BSZ100N06LS3
D1 N001 N008 MBRS1100
C1 N001 0 4.7µ
C2 N008 N011 .1µ
L1 N011 N012 8µ
R1 N012 OUT2 10m
C3 OUT2 0 10µ
M§Q3 IN N005 N010 N010 BSZ100N06LS3
M§Q4 N010 N013 0 0 BSZ100N06LS3
D2 N001 N007 MBRS1100
C4 N007 N010 .1µ
L2 N010 N009 4.7µ
R2 N009 OUT1 8m
C5 OUT1 0 10µ
R3 OUT1 N017 100K
R4 N017 0 31.6K
C6 N019 0 1n
C7 N021 0 .001µ
C8 IN 0 2.2µ x3
R5 IN N002 499k
R6 N002 0 40.2K
C9 OUT2 0 220µ
C10 OUT1 0 330µ
R7 N004 0 41.2K
C11 IN 0 47µ
R8 N001 N003 100K
C12 N016 OUT2 2.2p
R9 N012 N016 100
C13 N015 OUT1 2.2p
R10 N015 N009 100
R11 OUT2 N018 100K
R12 N018 0 10.5K
C14 N020 0 470p
C15 N022 0 .001µ
Rload1 OUT1 0 0.66
Rload2 OUT2 0 2.83
XU1 N019 N017 N015 OUT1 N004 N023 0 N002 N002 OUT2 N016 N018 N020 N022 N006 N011 N008 N014 N001 OUT2 0 IN N013 N007 N010 N005 N003 N021 LTC3890-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* Notes:\n  \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3890 - 60V Low IQ, Dual output, 2-Phase Synchronous Step-Down DC/DC Controller\nInput: 4.5V up to 60V   Outputs: 8.5V@3A  and 3.3V@5A
* 8.5V@3A
* 3.3V@5A
.lib LTC3890-1.sub
.backanno
.end
