* Z:\mnt\spice-netlists\LTC3862-2_DC2006A-A.asc
M§Q1 N001 N005 N006 N006 IPP034NE7N3
L1 IN N001 10µ
D1 N001 OUT PDS5100
R1 N010 0 66.5K
R2 OUT N012 475k
R3 N012 0 11.8K
V1 IN 0 12
R6 N006 0 4m
C2 0 N002 4.7µ
C3 0 N015 .001µ
C4 0 N003 .001µ
L2 IN N007 10µ
R7 N011 0 4m
M§Q2 N007 N009 N011 N011 IPP034NE7N3
D2 N007 OUT PDS5100
Rload OUT 0 10
C5 N014 0 10n
R10 N013 N014 37.4K
C8 N013 0 100p
C9 OUT 0 4.7µ x4
C7 OUT 0 100µ x2
C1 IN 0 4.7µ x4
C6 IN 0 100µ x2
R4 IN N004 54.9K
R5 N004 0 21K
M§Q3 N016 N020 N021 N021 IPP034NE7N3
L3 IN N016 10µ
D3 N016 OUT PDS5100
R8 N026 0 66.5K
R9 OUT N028 475K
R11 N028 0 11.8K
R12 N021 0 4m
C10 0 N017 4.7µ
C11 0 N029 .001µ
C12 0 N018 .001µ
L4 IN N022 10µ
R13 N027 0 4m
M§Q4 N022 N025 N027 N027 IPP034NE7N3
D4 N022 OUT PDS5100
C15 OUT 0 4.7µ x4
C16 OUT 0 100µ x2
R15 IN N019 54.9k
R16 N019 0 21K
C17 N023 0 10n
R17 N024 N023 10K
XU3 0 NC_01 NC_02 0 N026 N029 N013 N028 0 NC_03 N008 N024 N027 0 MP_04 N025 0 N020 N017 IN N019 0 N021 N018 LTC3862-2
XU4 0 NC_05 NC_06 0 N010 N015 N013 N012 0 N008 NC_07 0 N011 0 MP_08 N009 0 N005 N002 IN N004 0 N006 N003 LTC3862-2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
* LTC3862-1 - Multi-Phase Current Mode Step-Up DC/DC Controller (10V gate drive version)\nHigh Power, High Voltage, 4-Phase Boost Converter\nInput: 6V to 36V      Output 50V @ 10A
* Note:\n  Smaller values are used for SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3862-2.sub
.backanno
.end
