* Z:\mnt\spice-netlists\LTC3869-2_DC1798A-A.asc
V1 IN 0 12
C1 IN 0 10µ x2
M§Q1 IN N002 N007 N007 RJK0305DPB
M§Q2 N007 N010 0 0 RJK0301DPB
D1 N001 N004 CMDSH2-3
C2 N004 N007 .1µ
L1 N007 N006 2.4µ
R1 N006 OUT1 6m
C3 OUT1 0 22µ
C4 OUT1 0 220µ
R2 N006 N012 10
R3 OUT1 N014 10
C5 N012 N014 1n
R4 OUT1 N016 90.9K
R5 N016 0 20K
C6 OUT1 N016 22p
C7 N018 0 2.2n
R6 N019 N018 10K
C8 N019 0 220p
C9 N022 0 1n
R7 N024 0 100K
C10 N023 0 1n
XU1 N022 N012 N014 N016 N024 0 NC_01 N019 0 NC_02 N020 N017 N015 N013 N023 N003 N008 N005 N011 0 N001 MP_03 N010 IN N004 N007 N002 NC_04 NC_05 LTC3869-2
M§Q3 IN N003 N008 N008 RJK0305DPB
M§Q4 N008 N011 0 0 RJK0301DPB
D2 N001 N005 CMDSH2-3
C11 N005 N008 .1µ
L2 N008 N009 2.4µ
R8 N009 OUT2 6m
C12 OUT2 0 22µ
C13 OUT2 0 220µ
R9 N009 N013 10
R10 OUT2 N015 10
C14 N013 N015 1n
R11 OUT2 N017 63.4K
C15 OUT2 N017 22p
R12 N017 0 20K
C16 N021 0 2.2n
R13 N020 N021 8.2K
C17 N020 0 330p
Rload1 OUT1 0 0.66
Rload2 OUT2 0 0.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* 3.3V, MAX 5A
* 2.5V, MAX 5A
* LTC3869-2 - Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nHigh Efficiency Dual 3.3V/2.5V Buck Converter using Rsense Current Sensing\nInput: 4.5V-26V     Outputs: 3.3V @ 5A and 2.5V @ 5A, Fsw = 400kHz
* Notes:\n  A 100 Ohm & 1nF Rsense filter may be required to counter effects of Rsense ESL. Refer to the datasheet for details.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.tran .7m startup
.lib LTC3869-2.sub
.backanno
.end
