* Z:\mnt\spice-netlists\LTC3858-1_DC1352A.asc
V1 IN 0 10
C1 N009 N010 .1µ
L1 N010 N011 7.2µ
R1 N011 OUT2 .008
D1 N001 N009 BAT54
R2 OUT2 N015 976K
R3 N015 0 102K
C2 0 N019 .001µ
M§Q3 IN N004 N007 N007 BSZ097N04LS
C4 N008 N007 .1µ
L2 N007 N006 3.2µ
R5 N006 OUT1 .005
D2 N001 N008 BAT54
R6 OUT1 N014 182K
R7 N014 0 57.6K
C5 0 N018 .001µ
C6 N001 0 4.7µ
C7 OUT2 0 68µ
C8 OUT1 0 220µ
C9 N016 0 4.7n
Rload1 OUT1 0 .66
Rload2 OUT2 0 2.4
M§Q1 N007 N012 0 0 BSZ097N04LS
V2 RUN 0 5
C3 N017 0 3.3n
C10 N014 OUT1 10p
R4 N003 RUN 100K
XU1 N016 N014 N006 OUT1 0 0 0 RUN RUN OUT2 N011 N015 N017 N019 N005 N010 N009 N013 N001 N002 0 IN N012 N008 N007 N004 N003 N018 LTC3858-1
M§Q2 IN N005 N010 N010 BSZ097N04LS
M§Q4 N010 N013 0 0 BSZ097N04LS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3858-1 - Low IQ, Dual Output, Synchronous Buck Controller\nInput: 4.5V to 36V, Output1: 3.3V @ 5A, Output2: 8.5V @ 3A
* Notes:\n \n  C2, C5 should be 0.1µF, not 0.001µF.  It is reduced in value here to speed up the time to simulate a soft start cycle.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3858-1.sub
.backanno
.end
