* Z:\mnt\spice-netlists\LTC3838-1_DC1997A_F18.asc
R1 N025 0 133K
C1 0 N001 4.7µ
R2 N001 N002 2.2
M§Q1 IN N003 N008 N008 BSC050NE2LS
M§Q2 N008 N011 0 0 BSC010NE2LSI
D1 N001 N005 CMDSH2-3
C2 N005 N008 .1µ
L1 N008 N007 .47µ
C3 N013 N015 1n
CoBlk1 OUT1 0 330µ x2
C7 N021 0 1n
R5 N023 OUT1 15K
R6 0 N023 10K
M§Q3 IN N004 N009 N009 BSC050NE2LS
M§Q4 N009 N012 0 0 BSC010NE2LSI
D2 N001 N006 CMDSH2-3
C8 N006 N009 .1µ
L2 N009 N010 .47µ
C9 N014 N016 1n
CoBlk2 OUT2 0 330µ x2
C13 N022 0 1n
Rload1 OUT1 0 75m
Rload2 OUT2 0 60m
C14 N002 0 1µ
CoCer1 OUT1 0 100µ x2
CoCer2 OUT2 0 100µ x2
R3 N013 N007 10
R4 N015 OUT1 10
Rsense1 N007 OUT1 1m
C4 N018 0 47p
R13 N018 N017 15K
C5 N017 0 470p
Rsense2 N010 OUT2 1m
R7 OUT2 N016 10
R8 N010 N014 10
C6 N019 0 47p
R12 N019 N020 11K
C10 N020 0 330p
R9 OUT2 N024 10K
R10 N024 0 10K
XU1 N022 N019 N024 NC_01 N002 NC_02 0 N025 0 N018 N021 N023 0 N013 N015 N002 NC_03 NC_04 N005 N003 N008 N011 N001 IN 0 N002 NC_05 N001 N012 N009 N004 N006 NC_06 NC_07 N002 N016 N014 0 LTC3838-1
R11 N024 0 10K
R14 N024 0 10K
V2 IN 0 12
C11 IN 0 22µ
C15 IN 0 180µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3838-1 - Dual, Fast, Accurate Step-Down DC/DC Controller with Dual Differential Output Sensing\nHigh Current, Dual Output Synchronous Buck Converter\nInput: 4.5V to 14V     Outputs: 1.5V @ 20A & 1.2V @ 20A, Fswitch = 300kHz
* 1.5V @ 20A
* 1.2V @ 20A
* Note:\n  Small value are used for TRACK/SS capacitors to reduce simulation time. The typical value for actual applications will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3838-1.sub
.backanno
.end
